* Z:\mnt\design.r\spice\examples\3761A.asc
C1 N004 0 1µ
M§Q1 N001 N005 N007 N007 IRF1310
R1 N007 0 10m
L1 IN N001 10µ
R2 N002 N008 1Meg
R3 N008 0 16.9K
D1 N001 N002 MBRS360
R4 N002 N009 0.25
C2 N002 0 2.2µ x4
V1 IN 0 PWL(0 0 0.2m 48)
R5 IN N003 499K
R6 N003 0 90.9K
C3 N010 0 4700p
C4 N012 0 0.01µ
R7 N014 0 28.7K
D4 N009 N013 LXK2-PW14 N=17
C5 N015 0 47n
M§Q2 N013 N016 0 0 IRF1310
V2 N011 0 4
R8 N011 N012 124K
XU1 N006 N015 NC_01 N012 N014 N003 N004 IN N007 N005 N016 N008 N009 N002 N010 N006 0 LT3761A
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m startup
.lib LT3761A.sub
.backanno
.end
